US07790709B2
Preparation of (1H-Indol-7-ylmethyl)methylamine
Indole-7-carbaldehyde (500 mg, 3.4 mmol) was dissolved in anhydrous methanol (10 mL). Methylamine (5.1 mL of 2M solution in methanol, 9.55 mmol) was added and the reaction was stirred for 3 hr. The solution was concentrated to a yellow oil and then dissolved into anhydrous methanol (10 mL). Sodium borohydride (131 mg, 3.45 mmol) was added and the mixture was stirred overnight. Water (1 mL) was added and the solution was concentrated. Sodium hydroxide (5 mL, 1N) was added and the indole was extracted with ethyl acetate (3×20 mL), dried over MgSO4 and concentrated to afford the title compound as a yellow oil (484 mg, 92%). 1H NMR (300 MHz, CDCl3) δ 7.54 (s, 1H), 7.29-7.17 (m, 2H), 7.04 (d, J=3.1 Hz, 1H), 6.44 (d, J=3.1 Hz, 1H), 3.84 (s, 2H), 2.46 (s, 3H).

reactant | Indole-7-carbaldehyde | 3.4 mmol, 500 mg | N1C=CC2=CC=CC(=C12)C=O | C9H7NO
reactant | Methylamine | 9.55 mmol, 2M, 5.1 mL | CN | CH5N
reactant | Sodium borohydride | 3.45 mmol, 131 mg | [BH4-].[Na+]
reactant | Water | 1 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | (1H-Indol-7-ylmethyl)methylamine | 484 mg, 92% | N1C=CC2=CC=CC(=C12)CNC | C10H12N2
